US03992531
Generally speaking, compounds of this invention are prepared from 2-acetamido-adenosine-5'-carboxylic acid or from the corresponding 2',3'-isopropylidene derivatives. 2-acetamido-adenosine-5'-carboxylic acid is obtained by reacting 2,6-diaminopurine sulfate with sodium hydroxide to obtain 2,6-diaminopurine which is then reacted with acetic anhydride to yield 2,6-diacetamidopurine, which in turn is converted to a mercuri chloride complex. The mercuri chloride complex of 2,6-diacetamidopurine is then reacted with triacetyl D-ribofuranosyl chloride to obtain 2,6diacetamido-9-(triacetyl-β-D-ribofuranosyl) purine, which is then converted to the corresponding 2-acetamido adenosine by treatment with methanol in the presence of ammonia. Preparation of 2-acetamido adenosine from 2,6-diaminopurine sulfate has been described by J. Davoll & B. A. Lowy [J.A.C.S., 73, 1650 (1951)]. The corresponding isopropylidene compound is obtained by reacting 2-acetamido adenosine with acetone. Potassium permanganate oxidation affords the corresponding 5'-carboxylic acid.

reactant | 2,6-diaminopurine sulfate | S(=O)(=O)(O)O.NC1=NC(=C2NC=NC2=N1)N
reactant | sodium hydroxide | [OH-].[Na+]
product | 2,6-diaminopurine | NC1=NC(=C2NC=NC2=N1)N | C5H6N6
